### PR TITLE
[Merged by Bors] - feat: add zero lemmas for even powers

### PR DESCRIPTION
**Pull request by jfab20**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This is a PR based on a [zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Why.20isn.27t.20there.20code.20for.20x.5E2.20.2B.20y.5E2.20.3D.200.20.3C-.3E.20x.20.3D.200.20.5E.20y.20.3D.200/with/617593940)

I added lemmas for proving that x^2 + y^2 = 0 <-> x = 0 and y =0. This one in particular was already in the library on the form of x * x + y * y, so I just added the version with the squares for practicality. Then I added the version for even powers and similar versions for finite sums.

### CODE REVIEW

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 1]
```diff
@@ -86,6 +86,18 @@ theorem sum_mul_self_eq_zero_iff [Semiring R] [LinearOrder R] [IsStrictOrderedRi
   rw [sum_eq_zero_iff_of_nonneg fun _ _ ↦ mul_self_nonneg _]
   simp
 
+theorem sum_sq_eq_zero_iff [Semiring R] [LinearOrder R] [IsStrictOrderedRing R]
+    [ExistsAddOfLE R] (s : Finset ι)
+    (f : ι → R) : ∑ i ∈ s, (f i) ^2 = 0 ↔ ∀ i ∈ s, f i = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]:
```suggestion
    [ExistsAddOfLE R] (s : Finset ι) (f : ι → R) :
    ∑ i ∈ s, f i ^ 2 = 0 ↔ ∀ i ∈ s, f i = 0 := by
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 2]
```diff
@@ -86,6 +86,18 @@ theorem sum_mul_self_eq_zero_iff [Semiring R] [LinearOrder R] [IsStrictOrderedRi
...
+    grind [sq_nonneg, Finset.sum_eq_zero_iff_of_nonneg, pow_eq_zero_iff]
+
+theorem sum_pow_eq_zero_iff_of_even
+    [Semiring R] [LinearOrder R] [IsStrictOrderedRing R]
+    [ExistsAddOfLE R] (s : Finset ι) (f : ι → R)
+    (n : ℕ) (hn : n ≠ 0) (heven : Even n) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]:
```suggestion
    {n : ℕ} (hn : n ≠ 0) (heven : Even n) :
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]: Let's create a section for these three lemmas so we don't need to repeat the common arguments

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 3]
```diff
@@ -86,6 +86,18 @@ theorem sum_mul_self_eq_zero_iff [Semiring R] [LinearOrder R] [IsStrictOrderedRi
...
+    (∑ i ∈ s, f i ^ n) = 0 ↔ ∀ i ∈ s, f i = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]:
```suggestion
    ∑ i ∈ s, f i ^ n = 0 ↔ ∀ i ∈ s, f i = 0 := by
```

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 4]
```diff
@@ -632,13 +632,19 @@ instance (priority := 100) [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
...
 lemma mul_self_add_mul_self_eq_zero [NoZeroDivisors R]
     [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
     a * a + b * b = 0 ↔ a = 0 ∧ b = 0 := by
   rw [add_eq_zero_iff_of_nonneg, mul_self_eq_zero (M₀ := R), mul_self_eq_zero (M₀ := R)] <;>
     apply mul_self_nonneg
 
+/-- The sum of two squares is zero iff both elements are zero -/
+lemma sq_add_sq_eq_zero [NoZeroDivisors R]
+    [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
+    a^2 + b ^2 = 0 ↔ a = 0 ∧ b = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]:
```suggestion
    a ^ 2 + b ^ 2 = 0 ↔ a = 0 ∧ b = 0 := by
```

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 5]
```diff
@@ -632,13 +632,19 @@ instance (priority := 100) [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
     ZeroLEOneClass R where
   zero_le_one := by simpa only [one_mul] using mul_self_nonneg (1 : R)
 
-/-- The sum of two squares is zero iff both elements are zero. -/
+/-- The sum of two terms of the form x * x is zero iff both elements are zero. -/
 lemma mul_self_add_mul_self_eq_zero [NoZeroDivisors R]
     [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]: Let's make a section for these three lemmas as well

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 6]
```diff
@@ -85,6 +85,13 @@ protected lemma Even.pow_nonneg (hn : Even n) (a : R) : 0 ≤ a ^ n := by
 lemma pow_four_le_pow_two_of_pow_two_le {a b : R} (h : a ^ 2 ≤ b) : a ^ 4 ≤ b ^ 2 :=
   (pow_mul a 2 2).symm ▸ pow_le_pow_left₀ (sq_nonneg a) h 2
 
+lemma pow_add_pow_eq_zero_iff_of_even [NoZeroDivisors R]
+    (n : ℕ) (hn : n ≠ 0) (hn' : Even n) (x y : R) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Ring/Basic.lean]:
```suggestion
    {n : ℕ} (hn : n ≠ 0) (hn' : Even n) (x y : R) :
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks - please see the following minor comments

**Comment by jfab20** [comment]
-awaiting-author

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 7]
```diff
@@ -80,12 +80,27 @@ theorem le_prod_of_submultiplicative_of_nonneg {M : Type*} [CommMonoid M]
...
-theorem sum_mul_self_eq_zero_iff [Semiring R] [LinearOrder R] [IsStrictOrderedRing R]
-    [ExistsAddOfLE R] (s : Finset ι)
-    (f : ι → R) : ∑ i ∈ s, f i * f i = 0 ↔ ∀ i ∈ s, f i = 0 := by
+section StrictOrderedRing
+
+variable [Semiring R] [LinearOrder R] [IsStrictOrderedRing R] [ExistsAddOfLE R]
+    (s : Finset ι) (f : ι → R)
+
+theorem sum_mul_self_eq_zero_iff
+    : ∑ i ∈ s, f i * f i = 0 ↔ ∀ i ∈ s, f i = 0 := by
```
Comment (chenson2018) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]: This fits on one line

```suggestion
theorem sum_mul_self_eq_zero_iff : ∑ i ∈ s, f i * f i = 0 ↔ ∀ i ∈ s, f i = 0 := by
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 8]
```diff
@@ -80,12 +80,27 @@ theorem le_prod_of_submultiplicative_of_nonneg {M : Type*} [CommMonoid M]
...
   rw [sum_eq_zero_iff_of_nonneg fun _ _ ↦ mul_self_nonneg _]
   simp
 
+theorem sum_sq_eq_zero_iff :
+    ∑ i ∈ s, f i ^ 2 = 0 ↔ ∀ i ∈ s, f i = 0 := by
+    grind [sq_nonneg, Finset.sum_eq_zero_iff_of_nonneg, pow_eq_zero_iff]
```
Comment (chenson2018) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]:
```suggestion
theorem sum_sq_eq_zero_iff : ∑ i ∈ s, f i ^ 2 = 0 ↔ ∀ i ∈ s, f i = 0 := by
  grind [sq_nonneg, Finset.sum_eq_zero_iff_of_nonneg, pow_eq_zero_iff]
```

See the [style guide](https://leanprover-community.github.io/contribute/style.html) for information about indentation. Here the signature fits on the first line, but if it didn't the tactics would still return back to two-space indentation.

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 9]
```diff
@@ -80,12 +80,27 @@ theorem le_prod_of_submultiplicative_of_nonneg {M : Type*} [CommMonoid M]
...
+
+theorem sum_pow_eq_zero_iff_of_even
+    {n : ℕ} (hn : n ≠ 0) (heven : Even n) :
```
Comment (chenson2018) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean]: Some of this can still fit on the first line:
```suggestion
theorem sum_pow_eq_zero_iff_of_even {n : ℕ} (hn : n ≠ 0) (heven : Even n) :
```

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 10]
```diff
@@ -632,18 +632,26 @@ instance (priority := 100) [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] :
...
     a * a + b * b = 0 ↔ a = 0 ∧ b = 0 := by
   rw [add_eq_zero_iff_of_nonneg, mul_self_eq_zero (M₀ := R), mul_self_eq_zero (M₀ := R)] <;>
     apply mul_self_nonneg
 
-lemma eq_zero_of_mul_self_add_mul_self_eq_zero [NoZeroDivisors R]
-    [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R]
+/-- The sum of two squares is zero iff both elements are zero -/
+lemma sq_add_sq_eq_zero :
+    a ^ 2 + b ^ 2 = 0 ↔ a = 0 ∧ b = 0 := by
+    simpa [pow_two] using mul_self_add_mul_self_eq_zero
```
Comment (chenson2018) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]:
```suggestion
lemma sq_add_sq_eq_zero : a ^ 2 + b ^ 2 = 0 ↔ a = 0 ∧ b = 0 := by
  simpa [pow_two] using mul_self_add_mul_self_eq_zero
```

**Review by chenson2018 — COMMENTED** [review]
Some comments purely about indentation:

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge 

Thanks!

**Comment by faenuccio** [comment]
Thanks for this first contribution!

bors merge
